US06251926B1
Thionyl chloride (2.59 g) was added dropwise to a stirred suspension of 4-[2-(2-furyl)-5-methyl-4oxazolylmethoxy]-3-methoxybenzyl alcohol (6.30 g) in tetrahydrofuran (100 ml) at 0° C. After stirring at room temperature for 1 hours, the reaction mixture was poured onto ice to give 4-(4-chloromethyl-2-methoxyphenoxymethyl)-2-(2-furyl)-5-methyloxazole as crystals (5.67 g, yield 85%).

reactant | Thionyl chloride | 2.59 g | S(=O)(Cl)Cl | Cl2OS
reactant | 4-[2-(2-furyl)-5-methyl-4oxazolylmethoxy]-3-methoxybenzyl alcohol | 6.30 g | O1C(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(CO)C=C1)OC)C | C17H17NO5
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 4-(4-chloromethyl-2-methoxyphenoxymethyl)-2-(2-furyl)-5-methyloxazole | 5.67 g, yield 85% | ClCC1=CC(=C(OCC=2N=C(OC2C)C=2OC=CC2)C=C1)OC | C17H16ClNO4
